US08022062B2
6-Methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 2,3-bis-(2-methanesulfonyloxyethyl)-1-methoxybenzene (474.4 g, 1.346 mol) in acetonitrile (7 L) and split the mixture into two equal lots. In two separate runs, add concentrated aqueous NH4OH (3.5 L) and charge the solution to a pressure vessel (PARR apparatus). Heat the solution in a closed reactor to 100° C. over 20 min (internal pressure reaches about 100 psi), and maintain at 100° C. until the reaction is complete (about 1 h, HPLC monitored). Cool the reaction mixture to ambient temperature. Combine the two lots and remove the solvent in vacuo. Dissolve the residue in MTBE (3.5 L) and water (3.5 L). Adjust the pH to 6.5 using 2M aqueous NaOH or 1M aqueous HCl as appropriate (typically the pH is about pH=5.1 and the adjustment requires about 50 mL 2M aqueous NaOH). Discard the organic layer, adjust the aqueous layer to pH=13 using 50% NaOH (about 150 mL). Extract with MTBE (2×3.5 L), wash the combined organic layers with brine (3.5 L), dry over Na2SO4, filter and concentrate in vacuo to give the title compound as a crude yellow oil that solidifies upon standing (179.3 g). Use the material for the next step without further purification. Prepare an analytical sample by purification by two Kugelrohr distillations to give a clear oil that solidifies upon standing, mp 44.3-45.0° C. 13C NMR (300 MHz, DMSO-d6) □ 156.1, 144.4, 130.3, 126.2, 121.5, 108.9, 55.5, 48.2, 47.9, 39.9, 29.1; MS (ES+) m/z 163 (M+H)+; Anal. Calc'd for C11H15NO: C, 74.54; H, 8.53; N, 7.90. Found: C, 74.28; H, 8.62; N, 7.86.

reactant | 2,3-bis-(2-methanesulfonyloxyethyl)-1-methoxybenzene | 1.346 mol, 474.4 g | CS(=O)(=O)OCCC1=C(C=CC=C1CCOS(=O)(=O)C)OC | C13H20O7S2
reactant | acetonitrile | 7 L | C(C)#N | C2H3N
product | 6-Methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC=CC=2CCNCCC21 | C11H15NO
